Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins / doxycycline
 
Attending: ___.
 
Chief Complaint:
___, "Anxiety"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a PMHx of CAD s/p multiple
coronary interventions and pacemaker placement in ___ (hx of
CHB), CKD, sCHF (LVEF 40-45% ___, and DM (last HbA1C 8.1%
___, who presented to ___ today with 8 weeks of poor PO 
intake
after suddenly losing her long-time partner.

Her partner of ___ years died unexpectedly on ___, and she has 
not
been eating or drinking much since. Patient has been taking her
medications including anti-HTNs and torsemide daily without
interruption. She has been cleaning out their home for the past
several weeks, and states that she has been "anxious" since the
loss. Recently she has noticed that she becomes dizzy when she
stands from a seated position, but has had no changes to her
balance or any recent falls. Today she presented to UC 
(primarily
for anxiety) and was found to have BUN/Cr 82/2.6, up from 
76/1.96
on ___. Given her cardiac history they were uncomfortable
resuscitating her in UC, and she was admitted for IV fluids with
a psych/SW consult.

Of note, she checks her blood sugars each morning, and her 
values
are always <100 and occasionally as low as 50. She states that
she does not notice any difference when her blood sugar is in 
the
___.

She denies SI/HI.

Patient does endorse ___ weight loss over the past ___. 
Colonoscopy ___ with diverticula and polyps, repeat ___. 
Mammogram Birads-2 ___. 

 
Past Medical History:
CV:
- Cerebrovascular disease - ___
- Hypercholesterolemia - ___
- Hypertension - ___
- CAD - ___
- Systolic Heart Failure - ___
- Peripheral Vascular Disease - ___
- Complete heart block s/p PPM - ___

Renal: 
- Stage IV CKD - ___

Other:
- Depressive disorder - ___
- Menopause - ___
- Positive PPD - ___
- Hypothyroidism - ___
- DM2 - ___ (does not see a podiatrist)
- Diabetic retinopathy - ___ (pt reports last eye check in 
___
- Glaucoma - ___
- Vertigo - ___
- Hearing loss in L ear - ___
- Polymyalgia rheumatica - ___
- Pseudophakia, both eyes - ___
 
Social History:
___
Family History:
11 children, 9 living. Numerous grandchildren. Some live in 
area.
Family history of HTN, DM, heart problems. No family history of
cancers.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: HR 68, BP 105/62, T36.8, RR 10
GENERAL: Alert and interactive. In no acute distress. Depressed
mood.
HEENT: NCAT. EOMI. Sclera anicteric and without injection.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. ___
systolic murmur best heard at the RUSB. No rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to
palpation.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash. Dry skin on legs, feet.
Toenails thickened.
NEUROLOGIC: CN2-12 grossly intact. ___ strength throughout.
Normal sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
========================
___ ___ Temp: 98.0 PO BP: 147/76 L Lying HR: 55 RR: 18 O2
sat: 98% O2 delivery: Ra FSBG: 85 
GENERAL: NAD, sitting up, improved affect
HEENT: NC/AT, EOMI, no JVD
CARDIAC: RRR, s1+s2 normal, grade ___ systolic murmur, no r/g
appreciated
LUNGS: CTAB
ABDOMEN: +BS, non distended, non-tender to palpation.
EXTREMITIES: No clubbing, cyanosis, or edema. +pulses
SKIN: No rash
NEUROLOGIC: No motor/sensory deficits elicited, AAOx3
 
Pertinent Results:
ADMISSION LABS:
___ 08:05PM   GLUCOSE-179* UREA N-91* CREAT-2.6* SODIUM-138 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-23 ANION GAP-15
___ 08:05PM   estGFR-Using this
___ 08:05PM   CALCIUM-9.2 PHOSPHATE-4.2 MAGNESIUM-2.2
___ 08:05PM   TSH-2.6
___ 08:05PM   WBC-9.1 RBC-3.68* HGB-10.5* HCT-31.5* MCV-86 
MCH-28.5 MCHC-33.3 RDW-14.9 RDWSD-46.7*
___ 08:05PM   PLT COUNT-192
___ 08:05PM   ___ PTT-29.2 ___

DISCHARGE LABS:
___ 06:00AM BLOOD WBC-7.7 RBC-3.58* Hgb-10.0* Hct-31.4* 
MCV-88 MCH-27.9 MCHC-31.8* RDW-14.9 RDWSD-48.2* Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-87 UreaN-65* Creat-2.0* Na-145 
K-4.5 Cl-108 HCO3-23 AnGap-14
___ 06:00AM BLOOD Calcium-9.0 Phos-3.4 Mg-2.3

MICRO:
___ 6:35 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a PMHx of CAD s/p multiple 
coronary interventions and pacemaker placement in ___ (hx of 
CHB), CKD, sCHF (LVEF 40-45% ___, and DM (last HbA1C 8.1% 
___, who presented to ___ with 8 weeks of poor PO intake 
after suddenly losing her long-time partner, found to have ___ 
on CKD, admitted for failure to thrive, fluid repletion and 
SW/psych counseling found to have major depressive disorder 
started on tx and supplemented nutritionally. She reported doing 
much better prior to d/c.

ACUTE ISSUES:

# ___ on CKD:
Pt with admission BUN/CR of 82/2.6, up from 76/1.96 on ___, and 
elevated from a reported baseline of 70/1.8 (hc DM2/HTN), in the 
setting of decreased PO intake for 8 weeks with ongoing 
diuretic/afterload reduction administration. Given BUN/Cr>20 
ratio and FeNa<1% consistent w/ pre-renal. Received multiple IVF 
boluses which worked to improvement her Cr in the right 
direction, and was d/ced with Cr 2.0 near baseline and expected 
to down-trend.

# Failure to thrive:
# Major depressive disorder:
Patient recently had a significant loss, her partner of ___ 
passed away unexpectedly in ___. No SI/HI. Patient describes a 
wealth of family support. ___ still be bereavement however 
meeting DSM-V criteria for ___. This is in the context of 5 
SIGECAPS positives, including depressed mood and anhedonia, with 
>2 weeks in duration and which cannot be accounted to by grief 
given functional decline to the point of hospitalization 8 weeks 
from partner's passage. TSH WNL. Underwent SW visit to which she 
responded well and agreed to continue with outpatient therapy. 
Discussion w/ PCP office on ___ yielded that she has not 
attempted pharmacotherapy for ___ prior and they are in 
concurrence she may benefit from SSRI initiation which they can 
follow. She was thus started on sertraline 50mg PO daily with 
first dose on date of d/c (___) and counseled on the need to 
wait a latency period prior to efficacy of the medication. She 
was seen by nutrition who recommended MVM and supplements with 
meals (ensure enlive) to promote caloric and protein intake.

# Hypoglycemia:
i/s/o DM2 (c/b CKD and diabetic retinopathy): She reports finger 
stick blood glucose levels of 50-100 each morning with several 
<70, suggesting that her DM medications may be overdosed. This 
may be further complicated by her recent decreased PO intake. 
Held home glimepiride and linagliptin in house, and placed on 
moderate ISS. However, seen by ___ on ___ who placed her on 
mild ISS and plan to d/c home glimepiride on discharge. FSG well 
controlled on date of d/c.

CHRONIC ISSUES:

# Hypertension
Held home carvedilol, felodipine, lisinopril, torsemide, and 
isosorbide mononitrate

# CAD 
Continued home clopidogrel (s/p remote stenting, cardiologist 
has continued given her significant CAD), ASA 81mg, 
rosuvastatin. Held coreg and imdur given relative hypotension 
and HRs ___.

# HFrEF (LVEF 40-45% ___:
Patient likely has some degree of ischemic cardiomyopathy. She 
currently did not appear volume overloaded on exam, gave careful 
IVF boluses iso ___ on CKD as above. Held home torsemide given 
concern for prerenal azotemia, home carvedilol given relative 
hypotension and HRs ___, and home lisinopril/felodipine/imdure 
given relative hypotension.

# Hypercholesterolemia:
Continued home rosuvastatin.

# History of CHB s/p PPM placement:
Recently interrogated ___, Baseline ECG as above.

# Normocytic anemia:
Most likely AoCD with additional component of decreased epo 
production ___ CKD. 

TRANSITIONAL ISSUES:
[ ] Her home lisinopril and torsemide and CCB were held in 
setting ___ and volume depletion, pls consider restarting at 
next visit given HFrEF if she is clinically capable of taking 
them. Beta-blocker, nitrate restarted at d/c. consider switching 
her CCB to hydralazine as an outpt for additional mortality 
benefit.
[ ] Will need screening colonoscopy
[ ] consider referral to psychiatry/psychology therapy follow-up 
as an outpatient per SW, and dual treatment for ___
[ ] f/u w/ PCP to gauge ___ symtpoms from time of SSRI 
intitiation and titrate as needed
[ ] Please obtain BMP at next visit to ensure Cr back to 
baseline (d/c Cr 2.0)
[ ] Patient with anemia, pls follow up CBC at next visit (d/c Hb 
10.0)
[ ] Patient with finger stick values prior to d/c of low 100's
[ ] the patient's pacemaker mode has been changed during this 
visit to avoid non-paced p-waves. please follow up with 
cardiology as directed above. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 12.5 mg PO BID 
2. Clopidogrel 75 mg PO DAILY 
3. glimepiride 2 mg oral BID 
4. linaGLIPtin 5 mg oral BREAKFAST 
5. Lisinopril 10 mg PO DAILY 
6. Rosuvastatin Calcium 40 mg PO DAILY 
7. Torsemide 10 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Vitamin D ___ UNIT PO DAILY 
10. Felodipine 5 mg PO DAILY 
11. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Carvedilol 12.5 mg PO BID  
5.  Clopidogrel 75 mg PO DAILY  
6.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
7.  linaGLIPtin 5 mg oral BREAKFAST  
8.  Rosuvastatin Calcium 40 mg PO DAILY  
9.  Vitamin D ___ UNIT PO DAILY  
10. HELD- Felodipine 5 mg PO DAILY  This medication was held. Do 
not restart Felodipine until you see your primary care provider
11. HELD- Lisinopril 10 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until told to do so by your doctor
12. HELD- Torsemide 10 mg PO DAILY  This medication was held. Do 
not restart Torsemide until told to do so by your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Major depressive disorder
Failure to thrive
Acute kidney injury
Hypoglycemia

SECONDARY:
Chronic kidney disease
Hypertension
Diabetes mellitus type II
Coronary artery disease
Heart failure with reduced ejection fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
  - You were admitted because you were having a difficult time 
feeding yourself adequately and this caused some recent injury 
to your kidneys.
  - You were also found to have decreased interest in doing the 
things your previously enjoyed and may be suffering from 
depression.

What was done while I was in the hospital?
  - Blood draws were taken which showed you had some injury to 
your kidneys from decreased consumption of likely both enough 
water and food.
  - You were started on IV (thru your veins) fluid to help 
replenish what you were not able to take in before and correct 
your kidney injury.
  - You were seen by our social worker and our nutritional 
specialist who provided recommendations regarding outpatient 
therapy you can continue and provided you with nutritional 
shakes to help boost your calories and protein to correct your 
decreased eating from before.
  - You were determined to be suffering from depression and 
started on medications to help elevate your mood and interest.

What should I do when I go home?
  - It is very important that you take your medications as 
prescribed.
  - Please go to your scheduled appointment with your primary 
doctor.
  - If you have chest pains, shortness of breath or fainting, 
please tell your primary doctor or go to the emergency room.
  - Weigh yourself every morning, call your doctor if your 
weight goes up more than 3 lbs.

Best wishes, 
  Your ___ team
 
Followup Instructions:
___